US07119122B2
c) 4-Chloro-2-(3-dimethylaminomethyl-2-propylphenoxy)-benzonitrile fumarate
4-Chloro-2-fluorobenzonitrile (0.90 g, 5.8 mmol), 3-dimethylaminomethyl-2-propylphenol hydrobromide (1.58 g, 5.8 mmol) and cesium carbonate (3.94 g, 12.1 mmol) were heated with stirring in dry DMF (6 mL) at 50° C. for 18 h. The reaction mixture was cooled, poured into 0.1N sodium hydroxide solution and extracted with diethyl ether. The ether layer was separated, washed with 1N sodium hydroxide solution (1×), water (2×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to give a yellow oil (1.77 g), which was purified by chromatography to yield 4-chloro-2-(3-dimethylaminomethyl-2-propylphenoxy)-benzonitrile (1.53 g, 81%) as a pale yellow oil. A small portion (100 mg) was converted into the fumarate salt (63 mg, 47%).

reactant | 4-Chloro-2-fluorobenzonitrile | 5.8 mmol, 0.90 g | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | 3-dimethylaminomethyl-2-propylphenol hydrobromide | 5.8 mmol, 1.58 g | Br.CN(C)CC=1C(=C(C=CC1)O)CCC
reactant | cesium carbonate | 12.1 mmol, 3.94 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-2-(3-dimethylaminomethyl-2-propylphenoxy)-benzonitrile fumarate | 1.77 g | C(\C=C\C(=O)O)(=O)O.ClC1=CC(=C(C#N)C=C1)OC1=C(C(=CC=C1)CN(C)C)CCC | InChI=1S/C19H21ClN2O.C4H4O4/c1-4-6-17-15(13-22(2)3)7-5-8-18(17)23-19-11-16(20)10-9-14(19)12-21;5-3(6)1-2-4(7)8/h5,7-11H,4,6,13H2,1-3H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
